US05478839
2-(2-(1-Naphthalenesulfonamido)ethylamino)-1-(imidazo[1,2-a]pyridin-6-yl)-N-methylcyclohexanecarbothioamide (L-form)
600 m of 1-(imidazo[1,2-a]pyridin-6-yl)-N-methyl-2-oxocyclohexanecarbothioamide and 2.09 g of 1-naphthalenesulfonylaminoethylamine were dissolved in ml of dichloromethane to form a solution. 2 ml of a 1M solution of titanium tetrachloride in dichloromethane was added to this solution in 30 minutes at room temperature. The obtained mixture was stirred overnight, followed by the addition of 1 ml of concentrated aqueous ammonia. The crystal thus precipitated was filtered out, followed by the washing with 10% methanol/dichloromethane. The filtrate was concentrated in a vacuum, followed by the addition of 10 ml of methanol. 200 mg of sodium cyanoborohydride was added to the mixture at room temperature. The obtained mixture was stirred for one hour and concentrate, in a vacuum, followed by the addition of a saturated aqueous solution of sodium hydrogencarbonate. The resulting mixture was extracted with chloroform. The chloroform phase was dried over anhydrous sodium sulfate and concentrated in a vacuum. The residue was purified by silica gel column chromatography (solvent: a 10:10:1 dichloromethane/ethyl acetate/methanol mixture) to give 280 mg of a lower-polarity diastereomer (L-form) and 350 mg of a higher-polarity diastereomer (M-form) each as a pale-yellow crystal.

reactant | 1-(imidazo[1,2-a]pyridin-6-yl)-N-methyl-2-oxocyclohexanecarbothioamide | N=1C=CN2C1C=CC(=C2)C2(C(CCCC2)=O)C(NC)=S | C15H17N3OS
reactant | 1-naphthalenesulfonylaminoethylamine | 2.09 g | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)NC(C)N | C12H14N2O2S
reactant | ammonia | 1 ml | N | H3N
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | titanium tetrachloride | [Ti](Cl)(Cl)(Cl)Cl
product | 2-(2-(1-Naphthalenesulfonamido)ethylamino)-1-(imidazo[1,2-a]pyridin-6-yl)-N-methylcyclohexanecarbothioamide | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)NCCNC1C(CCCC1)(C(NC)=S)C=1C=CC=2N(C1)C=CN2 | C27H31N5O2S2
